US07081454B2
(S)-2-[4-(1-Hydroxymethyl-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-7-methyl-3H-benzimidazole-5-carbonitrile:
To a solution of 2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-7-methyl-3H-benzimidazole-5-carbonitrile (0.7 g, 2.19 mmol) in DMF (15 mL) were added N-methylmorpholine (0.66 g, 6.57 mmol) and (S)-(−)-2-amino-3-phenyl-1-propanol (0.40 g, 2.63 mmol). The reaction mixture was heated to 80° C. for 6 h and then cooled to room temperature. After concentration in vacuo, the residue was purified by flash chromatography (3% MeOH/CH2Cl2) to yield the title compound (0.59 g, 68%) as a yellow foam. 1H NMR (400 MHz, CD3OD) δ 7.74 (1H, s), 7.63 (1H, s), 7.12–7.27 (6H, m), 6.07 (1H, d, J=7.5 Hz), 3.97 (1H, m), 3.74 (2H, t, J=5 Hz), 3.14 (1H, dd, J=5.5, 14.0 Hz), 2.94 (1H, dd, J=7.9, 14.0 Hz), 2.60 (3H, s). LCMS (M+H)+ m/z 400 (t=1.71 min.).

reactant | 2-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-7-methyl-3H-benzimidazole-5-carbonitrile | 2.19 mmol, 0.7 g | ClC1=C(C(NC=C1)=O)C=1NC2=C(N1)C(=CC(=C2)C#N)C | C14H9ClN4O
reactant | N-methylmorpholine | 6.57 mmol, 0.66 g | CN1CCOCC1 | C5H11NO
reactant | (S)-(−)-2-amino-3-phenyl-1-propanol | 2.63 mmol, 0.40 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-2-[4-(1-Hydroxymethyl-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-7-methyl-3H-benzimidazole-5-carbonitrile | 0.59 g, 68% | OC[C@H](CC1=CC=CC=C1)NC1=C(C(NC=C1)=O)C=1NC2=C(N1)C(=CC(=C2)C#N)C | C23H21N5O2
